US04239901
To a solution of 3.13 g (10 mmoles) of 2-[3-chloro-4-(4-chloropyrazol-1-yl)phenyl]propionic acid ethyl ester in 20 ml of dimethyl formamide there are added dropwise, at room temperature, 15 ml of hydrazine hydrate. Stirring is continued for a further 2 hours at room temperature, followed by pouring on to ice, extraction with methylene chloride, drying of the organic phase and concentration. 2-[3-chloro-4-(4-chloropyrazol-1-yl)phenyl]propionic hydrazide is obtained.

reactant | 2-[3-chloro-4-(4-chloropyrazol-1-yl)phenyl]propionic acid ethyl ester | 10 mmoles, 3.13 g | C(C)OC(C(C)C1=CC(=C(C=C1)N1N=CC(=C1)Cl)Cl)=O | C14H14Cl2N2O2
reactant | hydrazine hydrate | 15 ml | O.NN
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | dimethyl formamide | 20 ml | CN(C=O)C | C3H7NO
product | 2-[3-chloro-4-(4-chloropyrazol-1-yl)phenyl]propionic hydrazide | ClC=1C=C(C=CC1N1N=CC(=C1)Cl)C(C(=O)NN)C | C12H12Cl2N4O
